US07902252B2
2.101. Synthesis of 4-((4′-(hydroxymethyl)biphenyl-3-yl)methyl)-1,4,5,6-tetrahydrocyclopenta[b]pyrrole-2-carboxylic acid (86)
The title compound was synthesized from methyl 4-((4′-(hydroxymethyl)biphenyl-3-yl)methyl)-1,4,5,6-tetrahydrocyclopenta[b]pyrrole-2-carboxylate (0.012 g, 0.033 mmol) and lithium hydroxide (0.016 g, 0.38 mmol in 0.5 mL water), according to General Procedure 7. A 1:1 mixture of methanol (MeOH) and THF (1 mL) was used. The resulting product was purified by reverse phase HPLC, eluting with a gradient of 40-100% MeOH: water (with 0.1% formic acid) to afford the title compound: 4.5 mg, 39% yield. 1H NMR (400 MHz, METHANOL-d4) δ ppm 2.10-2.18 (m, 1H), 2.52-2.63 (m, 3H), 2.79-2.91 (m, 2H), 3.33 (d, J=1.61 Hz, 1H), 4.64 (s, 2H), 6.39 (s, 1H), 7.19 (s, 1H), 7.34 (s, 2H), 7.42 (s, 3H), 7.56 (d, J=8.30 Hz, 2H); LCMS-MS (ESI−) 346.2 (M−H); HPLC (UV=93.1%), (ELSD=100%).

reactant | methyl 4-((4′-(hydroxymethyl)biphenyl-3-yl)methyl)-1,4,5,6-tetrahydrocyclopenta[b]pyrrole-2-carboxylate | 0.033 mmol, 0.012 g | OCC1=CC=C(C=C1)C1=CC(=CC=C1)CC1CCC=2NC(=CC21)C(=O)OC | C23H23NO3
reactant | lithium hydroxide | 0.38 mmol, 0.5 mL, 0.016 g | [OH-].[Li+]
reactant | methanol | CO | CH4O
solvent | THF | 1 mL | C1CCOC1 | C4H8O
product | 4-((4′-(hydroxymethyl)biphenyl-3-yl)methyl)-1,4,5,6-tetrahydrocyclopenta[b]pyrrole-2-carboxylic acid | OCC1=CC=C(C=C1)C1=CC(=CC=C1)CC1CCC=2NC(=CC21)C(=O)O | C22H21NO3
